US07365085B2
b) Piperidin-4-yl-acetic acid methyl ester hydrochloride
To a stirring suspension of piperidin-4-yl-acetic acid hydrochloride in MeOH (15 mL) at −5° C. was added thionyl chloride (1.12 mL, 15.3 mmol) dropwise. The reaction mixture was allowed to reach to RT then heated to 40° C. for 4 h. The reaction mixture was concentrated in vacuo and the resulting white solid was azeotroped with toluene twice. Washed with ether and filtered to give 2.7 g (quantitative yield). MS(ESI) 158.2 (M+H+).

reactant | piperidin-4-yl-acetic acid hydrochloride | Cl.N1CCC(CC1)CC(=O)O
reactant | thionyl chloride | 15.3 mmol, 1.12 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 15 mL | CO | CH4O
product | Piperidin-4-yl-acetic acid methyl ester hydrochloride | quantitative yield | Cl.COC(CC1CCNCC1)=O | InChI=1S/C8H15NO2.ClH/c1-11-8(10)6-7-2-4-9-5-3-7;/h7,9H,2-6H2,1H3;1H
